US09302996B2
In tetrahydrofuran (27 mL) was dissolved 5-bromo-3-chloro-N-methoxy-N-methylpyridine-2-carboxamide (2.66 g), the mixture was cooled under nitrogen atmosphere at −70° C. or lower, and a tetrahydrofuran (5 mL) suspension of lithium aluminum hydride (180 mg) was added dropwise to the mixture. The mixture was stirred at −70° C. or lower for 2 hours, then, water (10 mL) and a saturated brine (10 mL) were added dropwise to the mixture. A temperature of the mixture was raised to room temperature, the mixture was extracted with ethyl acetate, and the organic layer was washed with water and a saturated brine. The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 90:10) to obtain a mixture of an aldehyde compound and an aldehyde equivalent (2.1 g). To water (36 mL) were added 3,3-dibromo-1,1,1-trifluoropropan-2-one (6.61 g) and sodium acetate (4.02 g) and the mixture was stirred at 95° C. for 30 minutes. An aqueous solution obtained by ice-cooling the mixture was added to a mixture comprising the previously obtained mixture of the aldehyde/aldehyde equivalent (1.8 g), 28% aqueous ammonia (18 mL) and methanol (36 mL) at room temperature, and the resulting mixture was stirred at room temperature for 17 hours. The reaction mixture was concentrated, the residue was extracted with ethyl acetate, and the organic layer was washed with a saturated brine, and then, dried over anhydrous magnesium sulfate. After concentrating the mixture under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=80:20), and the obtained solid was collected by filtration, washed with isopropyl ether and dried to obtain 5-bromo-3-chloro-2-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridine (935 mg).

reactant | 5-bromo-3-chloro-N-methoxy-N-methylpyridine-2-carboxamide | 2.66 g | BrC=1C=C(C(=NC1)C(=O)N(C)OC)Cl | C8H8BrClN2O2
reactant | lithium aluminum hydride | 180 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,3-dibromo-1,1,1-trifluoropropan-2-one | 6.61 g | BrC(C(C(F)(F)F)=O)Br | C3HBr2F3O
reactant | sodium acetate | 4.02 g | C(C)(=O)[O-].[Na+]
reactant | ammonia | 18 mL | N | H3N
solvent | tetrahydrofuran | 27 mL | O1CCCC1 | C4H8O
solvent | brine | 10 mL | [Cl-].[Na+].O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 36 mL | CO | CH4O
solvent | water | 36 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 5-bromo-3-chloro-2-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridine | 935 mg | BrC=1C=C(C(=NC1)C=1NC(=CN1)C(F)(F)F)Cl | C9H4BrClF3N3
